US04775671
A mixture of 15.2 g (50 mmol) of (S)-8-chloro-11,12,13,13a-tetrahydro-1-(hydroxymethyl)-9H-imidazo[1,5-a]pyrrolo[2,1-c][1,4]benzodiazepin-9-one, 60 g of manganese (IV) oxide and 300 ml of methylene chloride is stirred at room temperature for 1.5 hours. The mixture is suction filtered over Dicalit, the residue is rinsed with methylene chloride and the filtrate is evaporated. After recrystallization from methylene chloride/ethyl acetate there is obtained (S)-8-chloro-11,12,13,13a-tetrahydro-9-oxo-9H-imidazo [1,5-a]pyrrolo[2,1-c][1,4]benzodiazepine-1-carboxaldehyde of melting point 224°-225°.

reactant | (S)-8-chloro-11,12,13,13a-tetrahydro-1-(hydroxymethyl)-9H-imidazo[1,5-a]pyrrolo[2,1-c][1,4]benzodiazepin-9-one | 50 mmol, 15.2 g | ClC1=CC=CC2=C1C(N1[C@H](C=3N2C=NC3CO)CCC1)=O | C15H14ClN3O2
catalyst | manganese (IV) oxide | 60 g | [O-2].[Mn+4].[O-2]
solvent | methylene chloride | 300 ml | C(Cl)Cl | CH2Cl2
product | (S)-8-chloro-11,12,13,13a-tetrahydro-9-oxo-9H-imidazo [1,5-a]pyrrolo[2,1-c][1,4]benzodiazepine-1-carboxaldehyde | ClC1=CC=CC2=C1C(N1[C@H](C=3N2C=NC3C=O)CCC1)=O | C15H12ClN3O2
